US04064239
d. 3-(2-Chloro-1,2-difluorovinyl)aniline
74 G. of zinc dust is added to a vigorously stirred solution of 40 g. of 3-(1,2-difluoro-1,2,2-trichloroethyl)-aniline in 450 ml. of ethanol and heated at reflux for 2 hours. It is filtered hot, the solid residue washed with hot ethanol and the combined ethanol solution cooled to room temperature. About 1000 ml. of chloroform is added and the organic layer is washed with aqueous NaHCO3 solution and with water, dried over Na2SO4 and concentrated in vacuo to 23.9 g. of oily 3-(2-chloro-1,2-difluorovinyl)aniline. This gives a single peak with a retention time of 1.8 minutes at 200° C. on a gas liquid chromatography column packed with 5% SE30, and the correct values for C,H,N,Cl and F by combustion analysis.

reactant | 3-(1,2-difluoro-1,2,2-trichloroethyl)-aniline | FC(C(Cl)(Cl)F)(Cl)C=1C=C(N)C=CC1 | C8H6Cl3F2N
catalyst | zinc | [Zn] | Zn
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-Chloro-1,2-difluorovinyl)aniline | ClC(=C(F)C=1C=C(N)C=CC1)F | C8H6ClF2N
